US05179125
Preparation of 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-5-ethylbenzoic acid
3-Amino-5-ethylbenzoic acid (2.1 g) is dissolved in a 33% aqueous solution of tetrahydrofuran (30 ml) containing sodium carbonate (1.3 g), and to the mixture is added dropwise a solution of 2-acetylthiomethyl-3-phenylpropionyl chloride (3.0 g) in tetrahydrofuran (20 ml) with stirring under ice cooling, and the mixture is stirred at room temperature for one hour. Tetrahydrofuran is distilled off under reduced pressure, and the residue is extracted with ethyl acetate (100 ml). The extract is washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate, and then ethyl acetate is distilled off under reduced pressure. The residue is dissolved in methanol and purified by a medium pressure column chromatography with CHP-20P (eluant, water-methanol). The fractions containing the desired compound are collected and concentrated into dryness under reduced pressure to give the title compound (2.8 g).

reactant | 3-Amino-5-ethylbenzoic acid | 2.1 g | NC=1C=C(C(=O)O)C=C(C1)CC | C9H11NO2
reactant | sodium carbonate | 1.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-acetylthiomethyl-3-phenylpropionyl chloride | 3.0 g | C(C)(=O)SCC(C(=O)Cl)CC1=CC=CC=C1 | C12H13ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-[(2-acetylthiomethyl-3-phenylpropionyl)amino]-5-ethylbenzoic acid | 2.8 g | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)O)C=C(C1)CC)CC1=CC=CC=C1 | C21H23NO4S
